* gnetlist -g spice-sdb -o netlists/hartley.net schematics/hartley.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ./models/2N2222.mod vvvvvvvv
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 28, 13
* MODEL FORMAT: PSpice
.MODEL Q2n2222a npn
+IS=3.88184e-14 BF=929.846 NF=1.10496 VAF=16.5003
+IKF=0.019539 ISE=1.0168e-11 NE=1.94752 BR=48.4545
+NR=1.07004 VAR=40.538 IKR=0.19539 ISC=1.0168e-11
+NC=4 RB=0.1 IRB=0.1 RBM=0.1
+RE=0.0001 RC=0.426673 XTB=0.1 XTI=1
+EG=1.05 CJE=2.23677e-11 VJE=0.582701 MJE=0.63466
+TF=4.06711e-10 XTF=3.92912 VTF=17712.6 ITF=0.4334
+CJC=2.23943e-11 VJC=0.576146 MJC=0.632796 XCJC=1
+FC=0.170253 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1

*^^^^^^^^  End of included SPICE model from ./models/2N2222.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
L2 0 2 1470uh 
L3 n2 0 1470uh 
C5 n2 2 100nf  
C3 n1 n2 100uf  
R2 0 4 220  
R3 4 n0 220  
V1 n0 0 5v
.options TEMP=25
.INCLUDE ./commands/hartley.cmd
R1 0 3 220  
Q1 n1 1 3 Q2N2222a 
L1 n0 n1 470uh 
C2 3 0 100nf  
C1 1 2 100nf  
.end
